* limiting-envelope-13 hard_vm1p100_v0p900
* Finite shunt pulse: 1 us delay, 10 ns edges, 4 us flat width.
.param VAMP=-1.100 RSH=220.0
VSHUNT shunt 0 PULSE(0 {VAMP} 1u 10n 10n 4u 8u)
VMEAS shunt shunt_m 0
R_ISENSE shunt_m isense {RSH}
CISENSE isense 0 1n
* PIECEWISE HARD CLAMP: I=0 for -V(isense)<=VF; I=(-V(isense)-VF)/RCL otherwise.
.param VF=0.900 RCL=0.001000000
BCLAMP 0 clamp_m I={((-V(isense)>VF) ? ((-V(isense)-VF)/RCL) : 0)}
VCLAMP clamp_m isense 0
.options method=trap reltol=1e-6 abstol=1e-12 vntol=1e-9
.save time v(shunt) v(shunt_m) v(isense) i(VMEAS) i(VCLAMP)
.tran 1n 8u 0 1n
.control
run
let resistor_power=(v(shunt_m)-v(isense))*i(VMEAS)
let clamp_power=-v(isense)*i(VCLAMP)
meas tran isense_max MAX v(isense) FROM=0 TO=8u
meas tran isense_min MIN v(isense) FROM=0 TO=8u
meas tran isense_flat AVG v(isense) FROM=4u TO=4.8u
meas tran resistor_i_max MAX i(VMEAS) FROM=0 TO=8u
meas tran resistor_i_min MIN i(VMEAS) FROM=0 TO=8u
meas tran resistor_i_flat AVG i(VMEAS) FROM=4u TO=4.8u
meas tran resistor_energy INTEG resistor_power FROM=1u TO=5.02u
meas tran resistor_energy_total INTEG resistor_power FROM=0 TO=8u
meas tran clamp_i_max MAX i(VCLAMP) FROM=0 TO=8u
meas tran clamp_i_min MIN i(VCLAMP) FROM=0 TO=8u
meas tran clamp_i_flat AVG i(VCLAMP) FROM=4u TO=4.8u
meas tran clamp_energy INTEG clamp_power FROM=1u TO=5.02u
meas tran clamp_energy_total INTEG clamp_power FROM=0 TO=8u
write hard_vm1p100_v0p900.raw time v(shunt) v(shunt_m) v(isense) i(VMEAS) i(VCLAMP)
quit
.endc
.end
